US08039455B2
a) 2-Acetylamino-6-chloro-isonicotinic acid ethyl ester
A mixture of 14 g 2-amino-6-chloro-isonicotinic acid ethyl ester (Temple et al. J. Heterocycl. Chem. 1970, 7, 451) (70 mmol) in 150 ml acetic anhydride (large excess) and 150 ml pyridine (large excess) is stirred at 60° C. in the presence of 244 mg (2 mmol) DMAP for 16 h. The mixture is concentrated in vacuo, taken up in EtOAc and washed with 1N HCl, brine and 10% aq Na2CO3 to yield the title compound in the form of yellowish crystals (EtOH).

reactant | 2-amino-6-chloro-isonicotinic acid ethyl ester | 70 mmol, 14 g | C(C)OC(C1=CC(=NC(=C1)Cl)N)=O | C8H9ClN2O2
reactant | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 2 mmol, 244 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Acetylamino-6-chloro-isonicotinic acid ethyl ester | C(C)OC(C1=CC(=NC(=C1)Cl)NC(C)=O)=O | C10H11ClN2O3
